US07981874B2
4-[Benzylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid methyl ester.
4-[(E)-Benzylimino-methyl]-benzoic acid methyl ester (0.50 g, 1.97 mmol) was made 0.3 M in dimethyl phosphite (6.5 mL) and to this stirring solution was added catalytic N,N,N,′,N′-tetramethyl-guanidine (0.02 g, 0.20 mmol). After stirring at ambient temperature for 4 hours the reaction mixture was diluted with EtOAc and washed with 1M aqueous NaOH (3×). The organic layer was washed further with brine, then dried (MgSO4) and concentrated in vacuo. MPLC purification (10-70% EtOAc in CH2Cl2) gave the title compound: MS: cal'd 364 (MH+), exp 364 (MH+)

reactant | 4-[(E)-Benzylimino-methyl]-benzoic acid methyl ester | 1.97 mmol, 0.50 g | COC(C1=CC=C(C=C1)/C=N/CC1=CC=CC=C1)=O | C16H15NO2
reactant | dimethyl phosphite | 6.5 mL | P(OC)(OC)[O-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[Benzylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(P(=O)(OC)OC)NCC1=CC=CC=C1)=O | C18H22NO5P
